US07452886B2
To a suspension of NaH (21.3 mmol) in DMF (50 ml), 4-(2-fluoro-4-hydroxy-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester (17.8 mmol) is successively added at 0° C. To the mixture, 2-(2-bromoethoxy)-tetrahydro-2H-pyrane (24.9 mmol) is added at 0° C. and the mixture is stirred for 2 h at ambient temperature. The reaction mixture is quenched with ice-water and extracted with AcOEt. The combined extracts are washed with H2O, brine and dried over magnesium sulfate. Chromatography on silica gel using n-hexane, n-hexane:AcOEt=6:1, n-hexane:AcOEt=4:1 gives the desired 4-{2-fluoro-4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-piperazine-1-carboxylic acid, tert-butyl ester.

reactant | NaH | 21.3 mmol | [H-].[Na+]
reactant | 4-(2-fluoro-4-hydroxy-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester | 17.8 mmol | FC1=C(C=CC(=C1)O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21FN2O3
reactant | 2-(2-bromoethoxy)-tetrahydro-2H-pyrane | 24.9 mmol | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-{2-fluoro-4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-piperazine-1-carboxylic acid, tert-butyl ester | FC1=C(C=CC(=C1)OCCOC1OCCCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H33FN2O5
